************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFHQX4
* View Name:     schematic
* Netlisted on:  Jun  4 07:49:17 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFHQX4
* View Name:    schematic
************************************************************************

.SUBCKT SDFFHQX4 CK D Q SE SI VDD VSS
*.PININFO CK:I D:I SE:I SI:I VDD:I VSS:I Q:O
Mmn13 net411 SI VSS VSS g45n1svt m=1 l=45n w=260n
Mmn14 Db SE net411 VSS g45n1svt m=1 l=45n w=260n
Mmn12 Db SEb net399 VSS g45n1svt m=1 l=45n w=260n
Mmn11 net399 D VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn50 net391 qbint VSS VSS g45n1svt m=1 l=45n w=205n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 mout CKbb n30 VSS g45n1svt m=1 l=45n w=205n
Mmn35 net378 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 CKbb net378 VSS g45n1svt m=1 l=45n w=205n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn51 n30 CKb net391 VSS g45n1svt m=1 l=45n w=205n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=410n
Mmn25 n20 CKb Db VSS g45n1svt m=1 l=45n w=205n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=205n
Mmp14 Db SEb net350 VDD g45p1svt m=1 l=45n w=390n
Mmp13 net350 SI VDD VDD g45p1svt m=1 l=45n w=390n
Mmp12 Db SE net342 VDD g45p1svt m=1 l=45n w=390n
Mmp11 net342 D VDD VDD g45p1svt m=1 l=45n w=390n
Mmp51 n30 CKbb net334 VDD g45p1svt m=1 l=45n w=310n
Mmp50 net334 qbint VDD VDD g45p1svt m=1 l=45n w=310n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp35 net319 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp25 Db CKbb n20 VDD g45p1svt m=1 l=45n w=310n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp36 n20 CKb net319 VDD g45p1svt m=1 l=45n w=310n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=310n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=620n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

