************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFNSRX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:49:22 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFNSRX2
* View Name:    schematic
************************************************************************

.SUBCKT SDFFNSRX2 CKN D Q QN RN SE SI SN VDD VSS
*.PININFO CKN:I D:I RN:I SE:I SI:I SN:I VDD:I VSS:I Q:O QN:O
Mmn13 net538 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn14 Db SE net538 VSS g45n1svt m=1 l=45n w=145n
Mmn12 Db SEb net546 VSS g45n1svt m=1 l=45n w=145n
Mmn11 net546 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn36 n20 CKNb net582 VSS g45n1svt m=1 l=45n w=145n
Mmn35 net582 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn22 RNb RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKNb CKN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn31 mout RNb net521 VSS g45n1svt m=1 l=45n w=145n
Mmn51 net0363 RNb net498 VSS g45n1svt m=1 l=45n w=145n
Mmn25 Db CKNbb n20 VSS g45n1svt m=1 l=45n w=145n
Mmn30 net521 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKNbb CKNb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n35 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn50 net498 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn32 mout n20 net521 VSS g45n1svt m=1 l=45n w=145n
Mmn56 qint qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn53 n35 CKNbb net0363 VSS g45n1svt m=1 l=45n w=145n
Mmn52 net0363 qbint net498 VSS g45n1svt m=1 l=45n w=145n
Mmn40 mout CKNb n35 VSS g45n1svt m=1 l=45n w=145n
Mmp14 Db SEb net453 VDD g45p1svt m=1 l=45n w=215n
Mmp13 net453 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Db SE net461 VDD g45p1svt m=1 l=45n w=215n
Mmp11 net461 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp52 net566 qbint net414 VDD g45p1svt m=1 l=45n w=215n
Mmp51 net414 RNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN qint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp36 n20 CKNbb net486 VDD g45p1svt m=1 l=45n w=215n
Mmp35 net486 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp32 mout n20 net478 VDD g45p1svt m=1 l=45n w=215n
Mmp31 net478 RNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 RNb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKNb CKN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp53 n35 CKNb net566 VDD g45p1svt m=1 l=45n w=215n
Mmp56 qint qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKNbb CKNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKNb Db VDD g45p1svt m=1 l=45n w=215n
Mmp50 net566 SN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n35 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp40 n35 CKNbb mout VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout SN VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

